US07612155B2
Biadamantane is brominated into 3-bromo-1,1′-biadamantane. In accordance with the synthesis process shown in Example 12, Exemplified compound (D-101) (3-vinyl-1,1′-biadamantane) is obtained as a target product.

reactant | Biadamantane | C12(CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C20H30
reactant | 3-bromo-1,1′-biadamantane | BrC12CC3(CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C20H29Br
product | 3-vinyl-1,1′-biadamantane | C(=C)C12CC3(CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C22H32
